US08431575B2
To a solution of 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-((R)-2-piperidin-2-yl-ethoxy)-pyridazine dihydrochloride (0.065 mmol, 0.033 g) and aqueous formaldehyde (37%, 0.323 mmol, 0.03 mL) in dry DCM (2 mL) was added macroporous resin-bound triacetoxyborohydride (loading 2.36 mmol/gram, 0.39 mmol, 0.165 g). The mixture was shaken for 12 hours. The reaction was filtered and the resin was washed with DCM (5 mL). The solvent was removed under reduced pressure. The crude product was purified on a 4 g SiO2 cartridge with 4-6% (2N NH3 in MeOH) in DCM to give 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-[2-((R)-1-methyl-piperidin-2-yl)-ethoxy]-pyridazine (0.02 g, 73%). The neutral amine was treated with 2N HCl in diethyl ether (1 mL) and DCM (1 mL). The volatiles were removed under reduced pressure and the salt was triturated with diethyl ether and filtered to provide the title compound (0.025 g). LCMS: m/z 453 [M+1]. 1H NMR (400 MHz, CD3OD) δ 6.97-7.45 (5H, m), 4.55-4.72 (2H, m), 4.35-4.46 (1H, m), 3.46-3.82 (1H, m), 3.05-3.19 (1H, m), 2.79-3.06 (5H, m), 2.44-2.74 (2H, m), 2.10-2.36 (2H, m), 1.74-2.06 (9H, m), 0.79 (3H, t).

reactant | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-((R)-2-piperidin-2-yl-ethoxy)-pyridazine dihydrochloride | 0.065 mmol, 0.033 g | Cl.Cl.C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC[C@@H]1NCCCC1
reactant | formaldehyde | 0.323 mmol, 0.03 mL | C=O | CH2O
reactant | triacetoxyborohydride | 0.39 mmol, 0.165 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 3-butyl-4-(4-cyclohexyloxy-phenyl)-6-[2-((R)-1-methyl-piperidin-2-yl)-ethoxy]-pyridazine | 0.02 g, 73% | C(CCC)C=1N=NC(=CC1C1=CC=C(C=C1)OC1CCCCC1)OCC[C@@H]1N(CCCC1)C | C28H41N3O2
